US04870079
Step C: Preparation of 5-(2-Fluoroethyl)-10,11-dihydro- 5H-dibenzo[a,d]cyclohepten-5,10-imine
A 154 mg (0.31 mmol) sample of product from Step B was heated at 65° C. for 20 minutes in 3.0 mL of a 0.21M solution of tetra-n-butylammonium fluoride in acetonitrile, followed by treatment with 4.0 mL of 3.0M HCl at 65° C. for 15 minutes. The reaction mixture was washed with two portions of CHCl3, basified to pH 12 with 2.0M NaOH and extracted with two portions of CHCl3. The combined extracts were washed with water, dried over Na2SO4, and evaporated at reduced pressure to provide an oil which was chromatographed on silica gel using 98:2:0.2 CHCl3 --CH3OH--NH4OH and crystallized from hexanes to give 38 mg (48%) of the title compound as colorless crystals. 1H NMR,

reactant | tetra-n-butylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | HCl | 3.0M, 4.0 mL | Cl | ClH
reactant | acetonitrile | C(C)#N | C2H3N
product | 5-(2-Fluoroethyl)-10,11-dihydro- 5H-dibenzo[a,d]cyclohepten-5,10-imine | 38 mg, 48% | C1C2C3=CC=CC=C3C(N2)(C4=CC=CC=C41)CCF | C17H16FN
